US06743794B2
2-Amino-N-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]-3-phenylpropionamide
A solution of {1-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester, 82 mg (0.14 mmol) in 15 mL of HCl-saturated acetic acid was stirred three hours at rt., then concentrated to dryness. The residue was slurried 3× in acetonitrile and concentrated to dryness to give a quantitative yield of the title compound as a tan foam. MS (ion spray) 479.2. (M+).

reactant | {1-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylcarbamoyl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CC=CC=C1)C(NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O)=O | C31H35ClN4O5
solvent | HCl | 15 mL | Cl | ClH
product | 2-Amino-N-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]-3-phenylpropionamide | quantitative yield | NC(C(=O)NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)CC2=CC=CC=C2 | C26H27ClN4O3
